US06440995B1
[4-(4-Chloro-quinolin-2-yl)-phenyl]-dimethyl-amine
The title compound, MS: m/e=282 (M+), was prepared from 4-chloro-quinoline and 4-bromo-N,N-dimethylaniline.

reactant | 4-chloro-quinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 4-bromo-N,N-dimethylaniline | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
product | [4-(4-Chloro-quinolin-2-yl)-phenyl]-dimethyl-amine | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)N(C)C | C17H15ClN2
